US06458780B1
Aluminum chloride (6.96 g) was added to a solution of 4.33 ml of acetyl chloride in 40 ml of carbon disulfide. A solution of 1.20 g of 5-methylimidazo[5,1-b]thiazole in 40 ml of dichloromethane was added dropwise thereto. The mixture was stirred at room temperature for 24 hr. The reaction solution was poured into 40 g of ice. Dichloromethane (100 ml) was added thereto. Sodium carbonate (32 g) was added to the mixture with stirring. The insolubles were removed by filtration, and washed with dichloromethane. The filtrate was concentrated under the reduced pressure. Ethyl acetate (20 ml) was added thereto. The resultant crystal was collected by filtration. The filtrate was purified by column chromatography on silica gel (dichloromethane:methanol=20:1). The purification product was combined with the above collected crystal to give 1.45 g of 7-acetyl-5-methylimidazo[5,1-b]thiazole.

reactant | Aluminum chloride | 6.96 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 4.33 ml | C(C)(=O)Cl | C2H3ClO
reactant | 5-methylimidazo[5,1-b]thiazole | 1.20 g | CC1=NC=C2SC=CN21 | C6H6N2S
reactant | Sodium carbonate | 32 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | carbon disulfide | 40 ml | C(=S)=S | CS2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7-acetyl-5-methylimidazo[5,1-b]thiazole | 1.45 g | C(C)(=O)C=1N=C(N2C1SC=C2)C | C8H8N2OS
